* extracted by klt extract --deck sg13cmos5l

* cell pfd_nfet_w2_l0p5
* pin vsubs
.SUBCKT pfd_nfet_w2_l0p5 vsubs
* device instance $1 r0 *1 2.3,3.11 nfet
X$1 \$64 \$2 \$3 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $2 r0 *1 6.26,3.11 nfet
X$2 \$65 \$4 \$5 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $3 r0 *1 10.22,3.11 nfet
X$3 \$66 \$6 \$7 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $4 r0 *1 14.18,3.11 nfet
X$4 \$67 \$8 \$9 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $5 r0 *1 18.14,3.11 nfet
X$5 \$68 \$10 \$11 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $6 r0 *1 22.1,3.11 nfet
X$6 \$69 \$12 \$13 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $7 r0 *1 26.06,3.11 nfet
X$7 \$70 \$14 \$15 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $8 r0 *1 30.02,3.11 nfet
X$8 \$71 \$16 \$17 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $9 r0 *1 33.98,3.11 nfet
X$9 \$72 \$18 \$19 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $10 r0 *1 37.94,3.11 nfet
X$10 \$73 \$20 \$21 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $11 r0 *1 41.9,3.11 nfet
X$11 \$74 \$22 \$23 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $12 r0 *1 45.86,3.11 nfet
X$12 \$75 \$24 \$25 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $13 r0 *1 49.82,3.11 nfet
X$13 \$76 \$26 \$27 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $14 r0 *1 53.78,3.11 nfet
X$14 \$77 \$28 \$29 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $15 r0 *1 57.74,3.11 nfet
X$15 \$78 \$30 \$31 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $16 r0 *1 61.7,3.11 nfet
X$16 \$79 \$32 \$33 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $17 r0 *1 65.66,3.11 nfet
X$17 \$80 \$34 \$35 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $18 r0 *1 69.62,3.11 nfet
X$18 \$81 \$36 \$37 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $19 r0 *1 73.58,3.11 nfet
X$19 \$82 \$38 \$39 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $20 r0 *1 77.54,3.11 nfet
X$20 \$83 \$40 \$41 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $21 r0 *1 81.5,3.11 nfet
X$21 \$84 \$42 \$43 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $22 r0 *1 85.46,3.11 nfet
X$22 \$85 \$44 \$45 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $23 r0 *1 89.42,3.11 nfet
X$23 \$86 \$46 \$47 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $24 r0 *1 93.38,3.11 nfet
X$24 \$87 \$48 \$49 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $25 r0 *1 97.34,3.11 nfet
X$25 \$88 \$50 \$51 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $26 r0 *1 101.3,3.11 nfet
X$26 \$89 \$52 \$53 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $27 r0 *1 105.26,3.11 nfet
X$27 \$90 \$54 \$55 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $28 r0 *1 109.22,3.11 nfet
X$28 \$91 \$56 \$57 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $29 r0 *1 113.18,3.11 nfet
X$29 \$92 \$58 \$59 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $30 r0 *1 117.14,3.11 nfet
X$30 \$93 \$60 \$61 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $31 r0 *1 121.1,3.11 nfet
X$31 \$94 \$62 \$63 vsubs sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
.ENDS pfd_nfet_w2_l0p5
