* Netlist provenance snapshot -- sim/README.md convention
* Frozen from design/sg13cmos5l/netlist/lock_detector.spice at issue #52's
* own branch HEAD (parent commit 65e2cb6), i.e. AFTER the XRPU/XCW/XDW.XC1
* resize this record's ../records/RECORD-002 measures.
*
* This is a SECOND, separate snapshot alongside lock_detector.spice, which
* stays frozen at RECORD-001's own pre-resize netlist (commit fbebbdb, content
* unchanged since PR #26) and is NOT edited -- sim/README.md's records are
* append-only and RECORD-001 must keep describing the netlist it actually
* simulated.  The two differ in exactly three instance values:
*     XRPU      l=6u        ->  l=700u          (rhigh, integrating pull-up)
*     XCW       w=8u l=8u   ->  w=40u l=40u     (cap_cmomi, integrating node)
*     XDW.XC1   w=4u l=4u   ->  w=40u l=40u     (cap_cmomi, comparator window)
* Every other line is byte-identical.
*
* Simulated by sim/sg13cmos5l-lock-detector-window/ (issue #52, Part of #16).
* Independent of whatever design/sg13cmos5l/netlist/lock_detector.spice says today.
*
* sg13g2-pll :: lock_detector (SG13CMOS5L) -- generated by design/sg13cmos5l/netlist.sh from lock_detector.sch
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/sg13cmos5l/lock_detector.sch
.subckt lock_detector UP DN LOCK VDD VSS
*.ipin UP
*.ipin DN
*.opin LOCK
*.iopin VDD
*.iopin VSS
XXOR UP DN ERR VDD VSS xor2_hv
XDW ERR ERRD VDD VSS delaywin_hv
XNW ERR ERRD nwide VDD VSS nand2_hv
XIW nwide WIDE VDD VSS inv_hv
XRPU VDD VWIN sub! rhigh w=0.5u l=700u m=1 b=0
XMPD VWIN WIDE VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
XCW VWIN VSS cap_cmomi w=40u l=40u mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XSCH VWIN LOCK VDD VSS schmitt_hv
.ends

* expanding   symbol:  xor2_hv.sym # of pins=5
** sym_path: design/sg13cmos5l/xor2_hv.sym
** sch_path: design/sg13cmos5l/xor2_hv.sch
.subckt xor2_hv A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XN1 A B n1 VDD VSS nand2_hv
XN2 A n1 n2 VDD VSS nand2_hv
XN3 B n1 n3 VDD VSS nand2_hv
XN4 n2 n3 Y VDD VSS nand2_hv
.ends


* expanding   symbol:  delaywin_hv.sym # of pins=4
** sym_path: design/sg13cmos5l/delaywin_hv.sym
** sch_path: design/sg13cmos5l/delaywin_hv.sch
.subckt delaywin_hv IN OUT VDD VSS
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin VSS
XI1 IN d1 VDD VSS inv_hv
XI2 d1 d2 VDD VSS inv_hv
XI3 d2 d3 VDD VSS inv_hv
XI4 d3 OUT VDD VSS inv_hv
XC1 OUT VSS cap_cmomi w=40u l=40u mmin=1 mmax=4 feed=double subblock=0 m=2 mm_ok=1
.ends


* expanding   symbol:  nand2_hv.sym # of pins=5
** sym_path: design/sg13cmos5l/nand2_hv.sym
** sch_path: design/sg13cmos5l/nand2_hv.sch
.subckt nand2_hv A1 A2 Y VDD VSS
*.opin Y
*.ipin A1
*.ipin A2
*.iopin VDD
*.iopin VSS
XMP1 Y A1 VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMP2 Y A2 VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMN1 Y A1 mid1 VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
XMN2 mid1 A2 VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends


* expanding   symbol:  inv_hv.sym # of pins=4
** sym_path: design/sg13cmos5l/inv_hv.sym
** sch_path: design/sg13cmos5l/inv_hv.sch
.subckt inv_hv A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMN Y A VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends


* expanding   symbol:  schmitt_hv.sym # of pins=4
** sym_path: design/sg13cmos5l/schmitt_hv.sym
** sch_path: design/sg13cmos5l/schmitt_hv.sch
.subckt schmitt_hv IN OUT VDD VSS
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin VSS
XMP1 np IN VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMP2 OUT IN np VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMP3 np OUT VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMN1 OUT IN nn VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
XMN2 nn IN VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
XMN3 nn OUT VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends

